* D:\YeeXun\ECE4063\4063proj\LTSpice\VoltageSourceWithNoise.asc
V1 N001 0 SINE(0 5 1k 0 0 0 1)
V2 Vnoisy N001 SINE(0 0.23 10.3k 0 0 61)
R1 Vnoisy 0 50
B1 Vquantised 0 V=floor(limit((V(Vnoisy) + 5)/10 * 255, 0, 255))
.tran 0 1m 0 1u
.backanno
.end
